US08252820B2
D. {2-[3-Benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-5-methylphenyl}-carbamic acid tert-butyl ester
The title compound is prepared analogously to Example 1, Step M, with (2-iodomethyl-5-methylphenyl)-carbamic acid tert-butyl ester and 5-(2-benzyloxy-6-fluoro-4-iodophenyl)-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one.

reactant | (2-iodomethyl-5-methylphenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)CI)=O | C13H18INO2
reactant | 5-(2-benzyloxy-6-fluoro-4-iodophenyl)-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)I)F)N1CC(N(S1(=O)=O)COCC1=CC=CC=C1)=O | C23H20FIN2O5S
product | {2-[3-Benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-5-methylphenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)CC1=CC(=C(C(=C1)F)N1S(N(C(C1)=O)COCC1=CC=CC=C1)(=O)=O)OCC1=CC=CC=C1)=O | C36H38FN3O7S
